US05998412
N-Hydroxysuccinimide (0.181 g, 1.57 mmol), 4-dimethylaminopyridine (96 mg, 0.78 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.33 g, 1.73 mmol) were added to a solution of 1-[4-(5-hydroxyindol-3-yl)piperidine-1-sulfonyl]piperidine-2-(RS)-carboxylic acid (0.32 g, 0.78 mmol) (prepared as described in Step 2 above] in 30% dimethylformamide/methylene chloride (5.5 ml). After stirring at RT for 2 h, the reaction was diluted with methylene chloride (50 ml) and washed with 1M HCl, brine and dried over MgSO4. The organics were evaporated in vacuo and the residue was dissolved in 50% ethyl acetate/methanol (13.4 ml). This solution was added to a solution of 50% aqueous hydroxylamine (6.7 ml, 109 mmol) in methanol (6.7 ml) at -30° C. with vigorous stirring. After 10 min., the reaction mixture was quenched with 1M HCl (final pH=3) and then concentrated in vacuo. The residue was extracted with ethyl acetate and the organic layer was washed with brine and dried over MgSO4. The organics were evaporated in vacuo and the residue was chromatographed (SiO2, 10% methanol/methylene chloride) to give N-hydroxy-1-[4-(5-hydroxyindol-3-yl)piperdine-1-sulfonyl]piperidine-2-(RS)-carboxamide (22%) as a white solid.

reactant | N-Hydroxysuccinimide | 1.57 mmol, 0.181 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.73 mmol, 0.33 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-[4-(5-hydroxyindol-3-yl)piperidine-1-sulfonyl]piperidine-2-(RS)-carboxylic acid | 0.78 mmol, 0.32 g | OC=1C=C2C(=CNC2=CC1)C1CCN(CC1)S(=O)(=O)N1C(CCCC1)C(=O)O | C19H25N3O5S
reactant | hydroxylamine | 109 mmol, 6.7 ml | NO | H3NO
catalyst | 4-dimethylaminopyridine | 0.78 mmol, 96 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide methylene chloride | 5.5 ml | CN(C=O)C.C(Cl)Cl
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 6.7 ml | CO | CH4O
product | N-hydroxy-1-[4-(5-hydroxyindol-3-yl)piperdine-1-sulfonyl]piperidine-2-(RS)-carboxamide | 22% | ONC(=O)C1N(CCCC1)S(=O)(=O)N1CCC(CC1)C1=CNC2=CC=C(C=C12)O | C19H26N4O5S
